US04251546
A mixture of 4-chlorophenol (51.2 g), trifluoroacetaldehyde methyl hemiacetal (26 g) and acetic acid (16 ml) was stirred at a temperature of 14° C. and concentrated sulfuric acid (60 ml) was added slowly and the temperature of the mixture was kept below 25° C. The mixture was then stirred for a period of 2 hours at a temperature of 40° C. and the mixture poured into water. The product was recrystallised from cyclohexane/diethyl ether to give 1,1-bis(5-chloro-2-hydroxyphenyl)-2,2,2-trifluoroethane (25 g), m.p. 144° C.

reactant | 4-chlorophenol | 51.2 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | trifluoroacetaldehyde methyl hemiacetal | 26 g | COC(C(F)(F)F)O | C3H5F3O2
reactant | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 1,1-bis(5-chloro-2-hydroxyphenyl)-2,2,2-trifluoroethane | 25 g | ClC=1C=CC(=C(C1)C(C(F)(F)F)C1=C(C=CC(=C1)Cl)O)O | C14H9Cl2F3O2
